US06693123B2
To a 0° C. solution in THF (40 mL) of 2-phenylmonomethylterephthalate (10.5 g, 41 mmol) was added borane-THF (1.0 M, 82 mL, 82 mmol) such that the reaction temperature remained below 6° C. The reaction mixture was stirred for 0.5 hours, then the cold bath was removed and stirring was continued for 2 hours. The reaction mixture was again cooled to 0° C. and aqueous HCl (3 M, 100 mL) was added slowly. The cold bath was removed and the reaction mixture was stirred for 1 hour. The THF was evaporated and the residue was extracted with ethyl acetate (3×). The combined organic extracts were washed with 1M aqueous NaOH (2×), water (2×) and brine, dried, filtered, and concentrated in vacuo to give 4-hydroxymethyl-2-phenylbenzoic acid methyl ester (9.75 g).

reactant | 2-phenylmonomethylterephthalate | 41 mmol, 10.5 g | C1(=CC=CC=C1)C1=C(C(=O)[O-])C=CC(=C1C)C(=O)[O-]
reactant | borane THF | 82 mmol, 1.0 M, 82 mL | B.C1CCOC1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-2-phenylbenzoic acid methyl ester | 9.75 g | COC(C1=C(C=C(C=C1)CO)C1=CC=CC=C1)=O | C15H14O3
